US07781435B2
(S)-2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid [1-(3-methyl-oxetan-3-ylmethyl)-1H-imidazol-4-yl]-amide
1-(3-Methyl-oxetan-3-ylmethyl)-4-nitro-1H-imidazole was reduced and then coupled with 2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid (U.S. Ser. No. 11/078,898 filed Mar. 11, 2005) to afford the title compound: MS 433.3 m/z (M+1).

reactant | 1-(3-Methyl-oxetan-3-ylmethyl)-4-nitro-1H-imidazole | CC1(COC1)CN1C=NC(=C1)[N+](=O)[O-] | C8H11N3O3
reactant | 2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid | FC=1C=C2CCC(CC2=C(C1)F)NC(C(=O)O)CCC | C15H19F2NO2
product | (S)-2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid [1-(3-methyl-oxetan-3-ylmethyl)-1H-imidazol-4-yl]-amide | CC1(COC1)CN1C=NC(=C1)NC([C@H](CCC)NC1CC2=C(C=C(C=C2CC1)F)F)=O | C23H30F2N4O2
